US07432371B2
2,6-Diformyl-4-(dodecyn-1-yl)phenol
2,6-Diformyl-4-bromophenol (2.50 g, 10.9 mmol), 1-dodecyne (2.00 g, 12.0 mmol), CuI (65 mg, 0.33 mmol), and bis(triphenylphosphine)palladium)II) dichloride were suspended in degassed acetonitrile (MeCN) (5 mL) and degassed benzene (1 mL). The yellow suspension was sparged with argon for 30 min and degassed Et3N (1 mL) was added. The resulting brown suspension was sealed in a pressure vial, warmed to 80° C. and held there for 12 h. The mixture was then partitioned between EtOAc and KHSO4 solution. The organic layer was separated, washed with brine, dried (MgSO4) and concentrated under reduced pressure. The dark yellow oil was purified by column chromatography on silica gel (25% Et2O in hexanes) to give 1.56 g (46%) of the title compound.

reactant | 2,6-Diformyl-4-bromophenol | 10.9 mmol, 2.50 g | C(=O)C1=C(C(=CC(=C1)Br)C=O)O | C8H5BrO3
reactant | 1-dodecyne | 12.0 mmol, 2.00 g | C#CCCCCCCCCCC | C12H22
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | CuI | 0.33 mmol, 65 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 2,6-Diformyl-4-(dodecyn-1-yl)phenol | 1.56 g, 46% | C(=O)C1=C(C(=CC(=C1)C#CCCCCCCCCCC)C=O)O | C20H26O3
